US04085211
Step B: 3,5-Diamino-6-chloro-N-{[(carboxymethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide dihydrochloride hydrate
Concentrated hydrochloric acid (100 ml) and 3,5-diamino-6-chloro-N-{[(tert-butoxycarbonylmethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide hemihydrate (2 g.) are united in a 500 ml. round bottomed flask and heated with stirring on a steam bath for 10 minutes during which time the evolution of isobutylene is observed. The hot reaction mixture is filtered. The 3,5-diamino-6-chloro-N{[(carboxymethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide dihydrochloride hydrate which is collected and dried in a steam cabinet melts at 252° C (dec.).

reactant | 3,5-diamino-6-chloro-N-{[(tert-butoxycarbonylmethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide hemihydrate | 2 g | O.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC(=O)NCC(=O)OC(C)(C)C.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC(=O)NCC(=O)OC(C)(C)C
reactant | isobutylene | CC(C)=C | C4H8
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 3,5-Diamino-6-chloro-N-{[(carboxymethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide dihydrochloride hydrate | O.Cl.Cl.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC(=O)NCC(=O)O | InChI=1S/C9H11ClN8O4.2ClH.H2O/c10-5-7(12)17-6(11)4(16-5)8(21)14-2-15-18-9(22)13-1-3(19)20;;;/h2H,1H2,(H,19,20)(H4,11,12,17)(H2,13,18,22)(H,14,15,21);2*1H;1H2
